### PR TITLE
Exponential series in ring extensions of Q

### PR DESCRIPTION
**Pull request by malarbol**
Built on top of #1995 

This PR introduces the exponential series in ring extensions of the rational numbers.

The sequence of coefficients is given by `n ↦ 1/n!` and for any `x`, the sequence of terms of the exponential series at `x` is `exp(x) : n ↦ xⁿ/n!`.

 
The sequence of coefficients of the exponential series satisfy the two following
conditions:

- `exp(0) = 1`, where `1` is the unit of the convolution product;
- if `x , y ∈ R` commute, then `exp(x + y) = exp(x) ⋆ exp(y)` where `⋆` denotes the convolution product.

### CODE REVIEW

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,501 @@
...
+conditions:
+
+- `exp(0) = 1`, where `1` is the unit of the
+  [convolution product](ring-theory.convolution-sequences-rings.md), i.e., the
+  [Kronecker delta](ring-theory.kronecker-delta-semirings.md) at `0`:
+  ```text
+    δ₀ = (1, 0, 0, ...)
+  ```
+- if `x , y ∈ R` [commute](ring-theory.commuting-elements-rings.md), then
+  `exp(x + y) = exp(x) ⋆ exp(y)` where `⋆` denotes the convolution product.
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
For any `x ∈ R`, the sequence of terms of the exponential series at `x` is the
sequence `exp(x) : n ↦ xⁿ/n!`. Note that `exp(x)` is not an element of `R` but
a sequence in `R`, namely the sequence of coefficients of the formal power
series `exp(xT) = ∑ₙ (xⁿ/n!) Tⁿ`; no convergence is involved.

The sequence of terms of the exponential series satisfies the two following
conditions:

- `exp(0) = 1`, where `1` is the unit of the
  [convolution product](ring-theory.convolution-sequences-rings.md), i.e., the
  [Kronecker delta](ring-theory.kronecker-delta-semirings.md) at `0`:
  ```text
    δ₀ = (1, 0, 0, ...)
  ```
- if `x , y ∈ R` [commute](ring-theory.commuting-elements-rings.md), then
  `exp(x + y) = exp(x) ⋆ exp(y)` where `⋆` denotes the convolution product.
````
Minor edits on wording. I added a sentence making explicit that `exp(x)` is a sequence in `R` (the coefficients of the formal power series `exp(xT)`) rather than an element of `R`, which is what makes `exp(x + y) = exp(x) ⋆ exp(y)` meaningful without any convergence.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 2]
```diff
@@ -0,0 +1,501 @@
...
+      ( power-succ-Ring (ring-Rational-Extension-Ring R) n _ ∙
+        right-zero-law-mul-Ring (ring-Rational-Extension-Ring R) _) ∙
+    right-zero-law-mul-Ring
+      ( ring-Rational-Extension-Ring R)
+      ( coefficient-exponential-series-Rational-Extension-Ring R (succ-ℕ n))
+```
+
+### Relation with binomial coefficients
+
+For any `n ∈ N` and `i ≤ n`,
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
For any `n ∈ ℕ` and `i ≤ n`,
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 3]
```diff
@@ -0,0 +1,501 @@
...
+          ( coefficient-exponential-series-Rational-Extension-Ring R
+            ( dist-ℕ (nat-Fin (succ-ℕ n) i) n)))
+        ( term-xy i)
+
+    htpy-expand-term-binomial-exponential :
+      expand-term-binomial-exponential ~ term-binomial-exponential
+    htpy-expand-term-binomial-exponential i =
+      ap
+        ( λ z → mul-Rational-Extension-Ring R z (term-xy i))
+        ( lemma-binomial-coefficent-exponential-series-Rational-Extension-Ring
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
        ( compute-binomial-coefficient-exponential-series-Rational-Extension-Ring
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 4]
```diff
@@ -0,0 +1,501 @@
...
+    mul-Rational-Extension-Ring R
+      ( coefficient-exponential-series-Rational-Extension-Ring R
+        ( nat-Fin (succ-ℕ n) i))
+      ( coefficient-exponential-series-Rational-Extension-Ring R
+        ( dist-ℕ (nat-Fin (succ-ℕ n) i) n)) ＝
+    multiple-Ring
+      ( ring-Rational-Extension-Ring R)
+      ( binomial-coefficient-Fin n i)
+      ( coefficient-exponential-series-Rational-Extension-Ring R n)
+  lemma-binomial-coefficent-exponential-series-Rational-Extension-Ring n i =
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
  compute-mul-coefficient-exponential-series-Rational-Extension-Ring :
    (n : ℕ) →
    (i : Fin (succ-ℕ n)) →
    mul-Rational-Extension-Ring R
      ( coefficient-exponential-series-Rational-Extension-Ring R
        ( nat-Fin (succ-ℕ n) i))
      ( coefficient-exponential-series-Rational-Extension-Ring R
        ( dist-ℕ (nat-Fin (succ-ℕ n) i) n)) ＝
    multiple-Ring
      ( ring-Rational-Extension-Ring R)
      ( binomial-coefficient-Fin n i)
      ( coefficient-exponential-series-Rational-Extension-Ring R n)
  compute-mul-coefficient-exponential-series-Rational-Extension-Ring n i =
````
Typo in the name ("coefficent"). While renaming, I'd also drop the lemma- prefix, which is rare in the library; names describe the type of the term, and compute- is the usual prefix for this kind of computation rule.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 5]
```diff
@@ -0,0 +1,503 @@
...
+```
+
+where `·` denotes the multiple in the ring.
+
+```agda
+module _
+  {l : Level} (R : Rational-Extension-Ring l)
+  where abstract
+
+  compute-mul-coefficient-exponential-series-Rational-Extension-Ring :
```
Comment (malarbol) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]: Should `binomial` be in the name too? So something like `compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring`?

Comment (ElifUskuplu) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]: I think you're right. I oversimplified the definition. `compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring` is better.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,503 @@
...
+            expand-term-binomial-exponential idx ＝
+            mul-Rational-Extension-Ring R
+              ( term-ev-exponential-series-Rational-Extension-Ring R x u)
+              ( term-ev-exponential-series-Rational-Extension-Ring R y v))
+          ( lemma-i)
+          ( ap (λ k → dist-ℕ k n) lemma-i ∙
+            inv (rewrite-left-add-dist-ℕ j i n K))
+          ( lemma-interchange-expand-term-binomial-exponential
+            ( nat-Fin (succ-ℕ n) idx)
+            ( dist-ℕ (nat-Fin (succ-ℕ n) idx) n))
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
    htpy-interchange-expand-term-binomial-exponential ij@(i , j , K) =
      binary-tr
        ( λ u v →
          expand-term-binomial-exponential idx ＝
          mul-Rational-Extension-Ring R
            ( term-ev-exponential-series-Rational-Extension-Ring R x u)
            ( term-ev-exponential-series-Rational-Extension-Ring R y v))
        ( lemma-i)
        ( ap (λ k → dist-ℕ k n) lemma-i ∙
          inv (rewrite-left-add-dist-ℕ j i n K))
        ( lemma-interchange-expand-term-binomial-exponential
          ( nat-Fin (succ-ℕ n) idx)
          ( dist-ℕ (nat-Fin (succ-ℕ n) idx) n))
      where
      idx : Fin (succ-ℕ n)
      idx = map-inv-equiv equiv-index-binomial-sum ij

      lemma-i : nat-Fin (succ-ℕ n) idx ＝ i
      lemma-i = ap pr1 (is-section-map-inv-equiv equiv-index-binomial-sum ij)
````
The coding style asks for where blocks rather than let, and for every term to carry a type (idx currently has none).

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md (hunk 5 above)
Comment (ElifUskuplu) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
  compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring :
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 7]
```diff
@@ -0,0 +1,503 @@
...
+    mul-Rational-Extension-Ring R
+      ( coefficient-exponential-series-Rational-Extension-Ring R
+        ( nat-Fin (succ-ℕ n) i))
+      ( coefficient-exponential-series-Rational-Extension-Ring R
+        ( dist-ℕ (nat-Fin (succ-ℕ n) i) n)) ＝
+    multiple-Ring
+      ( ring-Rational-Extension-Ring R)
+      ( binomial-coefficient-Fin n i)
+      ( coefficient-exponential-series-Rational-Extension-Ring R n)
+  compute-mul-coefficient-exponential-series-Rational-Extension-Ring n i =
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
  compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring n i =
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 8]
```diff
@@ -0,0 +1,503 @@
...
+          ( coefficient-exponential-series-Rational-Extension-Ring R
+            ( dist-ℕ (nat-Fin (succ-ℕ n) i) n)))
+        ( term-xy i)
+
+    htpy-expand-term-binomial-exponential :
+      expand-term-binomial-exponential ~ term-binomial-exponential
+    htpy-expand-term-binomial-exponential i =
+      ap
+        ( λ z → mul-Rational-Extension-Ring R z (term-xy i))
+        ( compute-mul-coefficient-exponential-series-Rational-Extension-Ring
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
        ( compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md (hunk 5 above)
Comment (malarbol) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]: Or maybe not. But, anyways, I'm not convinced about `compute-mul-coefficient-exponential-series-Rational-Extension-Ring` for this. For **this** name, I'd expect a type signature like this:
```
  compute-mul-coefficient-exponential-series-Rational-Extension-Ring : 
    (k l : ℕ) →
    mul-Rational-Extension-Ring R
      ( coefficient-exponential-series-Rational-Extension-Ring R k)
      ( coefficient-exponential-series-Rational-Extension-Ring R l) ＝
    [...]
```
where the RHS [...] would involve `k +ℕ l`, and binomial coefficients.

Comment (ElifUskuplu) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]: Would you consider adding that general version and deriving the current lemma from it? The proof of the general one is the current proof with `k`, `l` abstract (it already goes through `binomial-coefficient-multiple-split-inv-factorial-formula-ℕ`), and the `Fin`-indexed one then follows by a transport along `is-difference-dist-ℕ`. Signatures:

````agda
  compute-mul-binomial-coefficient-exponential-series-Rational-Extension-Ring :
    (k l : ℕ) →
    mul-Rational-Extension-Ring R
      ( coefficient-exponential-series-Rational-Extension-Ring R k)
      ( coefficient-exponential-series-Rational-Extension-Ring R l) ＝
    multiple-Ring
      ( ring-Rational-Extension-Ring R)
      ( binomial-coefficient-ℕ (k +ℕ l) k)
      ( coefficient-exponential-series-Rational-Extension-Ring R (k +ℕ l)) = ......

  compute-mul-binomial-coefficient-Fin-exponential-series-Rational-Extension-Ring :
    (n : ℕ) →
    (i : Fin (succ-ℕ n)) →
    ......

````
Optional; the current version is fine for this PR too.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 9]
```diff
@@ -0,0 +1,504 @@
...
+      ( ring-Rational-Extension-Ring R)
+      ( Fin-Finite-Type (succ-ℕ n))
+      ( finite-type-binary-sum-decomposition-ℕ n)
+      ( equiv-index-binomial-sum)
+      ( expand-term-binomial-exponential) ∙
+    htpy-sum-finite-Ring
+      ( ring-Rational-Extension-Ring R)
+      ( finite-type-binary-sum-decomposition-ℕ n)
+      ( htpy-interchange-expand-term-binomial-exponential)
+    where
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md:315]: Optional, and fine to leave for a later PR: this `where` block is about 130 lines with eight local definitions, and the style guide asks to factor out the reusable parts. At least one of them is general: `equiv-index-binomial-sum`. That would be a natural addition to `elementary-number-theory.binary-sum-decompositions-natural-numbers`, where anything that reindexes a binomial-type sum can reuse it. `lemma-interchange-expand-term-binomial-exponential` only depends on `x, y, i, j` and could also live at top level. The rest (`term-xy`, `expand-term-binomial-exponential`, and the two homotopies) is specific to this proof and can stay where it is.

Comment (malarbol) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md:315]: ok. I'll do it in this PR. I suspected this proof needed some refactoring but I didn't really know where to start. Thanks for the indications.

Comment (malarbol) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md:315]: This should be better now.

File: src/elementary-number-theory/binary-sum-decompositions-natural-numbers.lagda.md [hunk 10]
```diff
@@ -212,13 +212,18 @@ module _
...
+    Fin (succ-ℕ n) ≃ binary-sum-decomposition-ℕ n
+  equiv-count-binary-sum-deccomposition-ℕ =
     equiv-binary-sum-decomposition-leq-ℕ ∘e
     equiv-le-succ-ℕ-leq-ℕ n ∘e
     equiv-classical-standard-Fin (succ-ℕ n)
 
+  count-binary-sum-decomposition-ℕ : count (binary-sum-decomposition-ℕ n)
+  pr1 count-binary-sum-decomposition-ℕ = succ-ℕ n
+  pr2 count-binary-sum-decomposition-ℕ =
+    equiv-count-binary-sum-deccomposition-ℕ
```
Comment (ElifUskuplu) [inline src/elementary-number-theory/binary-sum-decompositions-natural-numbers.lagda.md]:
````suggestion
  equiv-count-binary-sum-decomposition-ℕ :
    Fin (succ-ℕ n) ≃ binary-sum-decomposition-ℕ n
  equiv-count-binary-sum-decomposition-ℕ =
    equiv-binary-sum-decomposition-leq-ℕ ∘e
    equiv-le-succ-ℕ-leq-ℕ n ∘e
    equiv-classical-standard-Fin (succ-ℕ n)

  count-binary-sum-decomposition-ℕ : count (binary-sum-decomposition-ℕ n)
  pr1 count-binary-sum-decomposition-ℕ = succ-ℕ n
  pr2 count-binary-sum-decomposition-ℕ =
    equiv-count-binary-sum-decomposition-ℕ
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 11]
```diff
@@ -259,7 +307,7 @@ module _
       ( ring-Rational-Extension-Ring R)
       ( Fin-Finite-Type (succ-ℕ n))
       ( finite-type-binary-sum-decomposition-ℕ n)
-      ( equiv-index-binomial-sum)
+      ( equiv-count-binary-sum-deccomposition-ℕ n)
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
      ( equiv-count-binary-sum-decomposition-ℕ n)
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 12]
```diff
@@ -329,51 +370,10 @@ module _
...
-      ap
-        ( mul-Rational-Extension-Ring R _)
-        ( associative-mul-Ring (ring-Rational-Extension-Ring R) _ _ _) ∙
-      inv (associative-mul-Ring (ring-Rational-Extension-Ring R) _ _ _)
-
     htpy-interchange-expand-term-binomial-exponential :
       (ij@(i , j , K) : binary-sum-decomposition-ℕ n) →
       expand-term-binomial-exponential
-        ( map-inv-equiv equiv-index-binomial-sum ij) ＝
+        ( map-inv-equiv (equiv-count-binary-sum-deccomposition-ℕ n) ij) ＝
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
        ( map-inv-equiv (equiv-count-binary-sum-decomposition-ℕ n) ij) ＝
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 13]
```diff
@@ -387,15 +387,22 @@ module _
...
+          ( R)
+          ( x)
+          ( y)
+          ( H)
           ( nat-Fin (succ-ℕ n) idx)
           ( dist-ℕ (nat-Fin (succ-ℕ n) idx) n))
       where
       idx : Fin (succ-ℕ n)
-      idx = map-inv-equiv equiv-index-binomial-sum ij
+      idx = map-inv-equiv (equiv-count-binary-sum-deccomposition-ℕ n) ij
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
      idx = map-inv-equiv (equiv-count-binary-sum-decomposition-ℕ n) ij
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 14]
```diff
@@ -387,15 +387,22 @@ module _
...
 
       lemma-i : nat-Fin (succ-ℕ n) idx ＝ i
-      lemma-i = ap pr1 (is-section-map-inv-equiv equiv-index-binomial-sum ij)
+      lemma-i =
+        ap pr1
+          ( is-section-map-inv-equiv
+            ( equiv-count-binary-sum-deccomposition-ℕ n) ij)
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
            ( equiv-count-binary-sum-decomposition-ℕ n) ij)
````

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 15]
```diff
@@ -0,0 +1,508 @@
...
+
+```text
+  (1/i!)(1/j!) (xⁱyʲ) ＝ (xⁱ/i!) (yʲ/j!)
+```
+
+```agda
+module _
+  {l : Level} (R : Rational-Extension-Ring l)
+  (x y : type-Rational-Extension-Ring R)
+  (H : commute-Ring (ring-Rational-Extension-Ring R) x y)
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
````
This assumption is not used anywhere in the file. I've tested and the PR compiled without an issue after removing `H`. Why do you need this assumption?

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 16]
```diff
@@ -0,0 +1,508 @@
...
+            ( term-ev-exponential-series-Rational-Extension-Ring R x u)
+            ( term-ev-exponential-series-Rational-Extension-Ring R y v))
+        ( lemma-i)
+        ( ap (λ k → dist-ℕ k n) lemma-i ∙
+          inv (rewrite-left-add-dist-ℕ j i n K))
+        ( interchange-mul-term-exponential-series-Rational-Extension-Ring
+          ( R)
+          ( x)
+          ( y)
+          ( H)
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
````

File: src/elementary-number-theory/binary-sum-decompositions-natural-numbers.lagda.md (hunk 10 above)
Comment (malarbol) [reply src/elementary-number-theory/binary-sum-decompositions-natural-numbers.lagda.md]: oops. my keyboard is a bit old and laggy. sorry.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md (hunk 15 above)
Comment (malarbol) [reply src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]: Good catch. I need this assumption for the `exp(x + y)` formula (to use the binomial theorem) but it is not necessary here.

File: src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md [hunk 17]
```diff
@@ -0,0 +1,506 @@
...
+      ( inv-factorial-ℕ n) ∙
+    ( integer-multiple-int-Ring
+      ( ring-Rational-Extension-Ring R)
+      ( binomial-coefficient-Fin n i)
+      ( coefficient-exponential-series-Rational-Extension-Ring R n))
+```
+
+### Interchange rule for the product of terms of exponential series
+
+If `x` and `y` commute in `R` then for any `i j : ℕ`,
```
Comment (ElifUskuplu) [inline src/ring-theory/exponential-series-ring-extensions-rational-numbers.lagda.md]:
````suggestion
For any `i j : ℕ`,
````
The unnecessary hypothesis should be removed from the text, too.
